US07030116B2
(S)-2-(1-Fluoro-2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid[1-(benzoxazole-2-carbonyl)-propyl]-amide
Dess-Martin Periodinane (15 wt % in DCM, 0.15 mmol, 424 mg) was added to a solution of (S)-2-(1-Fluoro-2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid[1-(benzoxazol-2-yl-hydroxy-methyl)-propyl]-amide (0.074 mmol) in dry methylene chloride and stirred for three hours. The reaction was quenched with Na2S2O3 (0.37 mmol, 56 mg) in aqueous NaHCO3, the organic layer was separated, the aqueous extracted once more with methylene chloride, the organic extracts were dried over Na2SO4 and concentrated under reduced pressure. Column chromatography on silica eluting with a mixture of ethyl acetate and methylene chloride gave the title compound as a white solide (30 mg).

reactant | Dess-Martin Periodinane | 0.15 mmol, 424 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | (S)-2-(1-Fluoro-2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid[1-(benzoxazol-2-yl-hydroxy-methyl)-propyl]-amide | 0.074 mmol | O1C(=NC2=C1C=CC=C2)C(C(CC)NC([C@H](CCCC2=CC=CC=C2)C(C(=O)N2CCOCC2)F)=O)O | C28H34FN3O5
reactant | Na2S2O3 | 0.37 mmol, 56 mg | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (S)-2-(1-Fluoro-2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid[1-(benzoxazole-2-carbonyl)-propyl]-amide | O1C(=NC2=C1C=CC=C2)C(=O)C(CC)NC([C@H](CCCC2=CC=CC=C2)C(C(=O)N2CCOCC2)F)=O | C28H32FN3O5
